US07517910B2
ethyl 3-{4-[(4-{[3-tert-butyl-5-(2-phenylethyl)-1H-pyrazol-1-yl]methyl}benzyl)oxy]-2-fluorophenyl}propanoate
To a solution of 3-tert-butyl-5-(2-phenylethyl)-1H-pyrazole (250 mg, 1.1 mmol) in N,N-dimethylformamide (5 mL) was added sodium hydride (60% in oil, 40 mg, 1.0 mmol) at 0° C., and the mixture was allowed to warm to room temperature and stirred for 30 min. Ethyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-2-fluorophenyl)propanoate (350 mg, 1.0 mmol) was added to the reaction mixture, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into 1 N hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (Manufactured by Wako Pure Chemical Industries, Ltd.), and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=19:1-1:1) to give the title compound as a yellow oil. 1H NMR (CDCl3) δ: 1.22 (3H, t, J=7.2 Hz), 1.33 (9H, s), 2.57 (2H, t, J=7.6 Hz), 2.68-2.76 (2H, m), 2.78-2.83 (2H, m), 2.89 (2H, t, J=7.7 Hz), 4.11 (2H, q, J=7.2 Hz), 4.97 (2H, s), 5.21 (2H, s), 5.98 (1H, s), 6.60-6.69 (2H, m), 6.99-7.12 (5H, m), 7.16-7.30 (3H, m), 7.32 (2H, d, J=8.1 Hz).

reactant | 3-tert-butyl-5-(2-phenylethyl)-1H-pyrazole | 1.1 mmol, 250 mg | C(C)(C)(C)C1=NNC(=C1)CCC1=CC=CC=C1 | C15H20N2
reactant | sodium hydride | 1.0 mmol, 40 mg | [H-].[Na+]
reactant | Ethyl 3-(4-{[4-(chloromethyl)benzyl]oxy}-2-fluorophenyl)propanoate | 1.0 mmol, 350 mg | ClCC1=CC=C(COC2=CC(=C(C=C2)CCC(=O)OCC)F)C=C1 | C19H20ClFO3
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | ethyl 3-{4-[(4-{[3-tert-butyl-5-(2-phenylethyl)-1H-pyrazol-1-yl]methyl}benzyl)oxy]-2-fluorophenyl}propanoate | C(C)(C)(C)C1=NN(C(=C1)CCC1=CC=CC=C1)CC1=CC=C(COC2=CC(=C(C=C2)CCC(=O)OCC)F)C=C1 | C34H39FN2O3
